US05679332
L-cysteine-(2-hydroxyethyl)ester.
The first fraction contains 8.0 g L-cysteine.HCl while the second fraction contains 1.0 g L-cysteine-(2-methoxyethyl)-ester.HCl which is contaminated with a slight amount of L-cysteine.HCl.

reactant | L-cysteine.HCl | 8.0 g | C([C@@H](C(=O)O)N)S.Cl
reactant | L-cysteine-(2-methoxyethyl)-ester | 1.0 g | COCCOC([C@@H](N)CS)=O | C6H13NO3S
reactant | HCl | Cl | ClH
product | L-cysteine-(2-hydroxyethyl)ester | OCCOC([C@@H](N)CS)=O | C5H11NO3S
